US04214094
In 20 ml of ethanol is dissolved 1.2 g of ethyl 2-[4-{N-(4-chlorophenyl)-N-methylaminomethyl}phenoxy]-2-methylpropionate. Subsequently, 15 ml of 1 N aqueous solution of sodium hydroxide is added to the solution, and the mixture is stirred at room temperature for 4 hours. After distilling off the ethanol from the reaction mixture under reduced pressure, the residue is dissolved in water. The solution is adjusted to pH 4 with 10% hydrochloric acid, and the precipitated crystals are collected by filtration and dried to give 0.94 g of 2-[4-{N-(4-chlorophenyl)-N-methylaminomethyl}phenoxy]-2-methylpropionic acid, mp 63° to 65° C.

reactant | ethyl 2-[4-{N-(4-chlorophenyl)-N-methylaminomethyl}phenoxy]-2-methylpropionate | 1.2 g | ClC1=CC=C(C=C1)N(C)CC1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C20H24ClNO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-[4-{N-(4-chlorophenyl)-N-methylaminomethyl}phenoxy]-2-methylpropionic acid | 0.94 g | ClC1=CC=C(C=C1)N(C)CC1=CC=C(OC(C(=O)O)(C)C)C=C1 | C18H20ClNO3
